US04873335
A solution of (1-ethoxycarbonyl-4piperidinyl)[3-[2-(3-chlorophenyl)ethyl]-2pyridinyl]methanone hydrochloride (0.5 g, 1.25 mmol) (prepared by reacting the corresponding 1-methyl-H-piperidinyl compound with ethvl chloroformate) in 1.5 mL of trifluoromethane sulfonic acid is stirred at ambient temperature for 24 hours. The reaction is diluted with ice and water, neutralized with barium carbonate, and the product extracted into ethvl acetate. The solvent is removed and following purification of the residue by silica gel chromatography, 8-chloro-6,11-dihydro-11-(1- ethoxycarbonyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine is obtained.

reactant | (1-ethoxycarbonyl-4piperidinyl)[3-[2-(3-chlorophenyl)ethyl]-2pyridinyl]methanone hydrochloride | 1.25 mmol, 0.5 g | Cl.C(C)OC(=O)N1CCC(CC1)C(=O)C1=NC=CC=C1CCC1=CC(=CC=C1)Cl
reactant | ethvl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | barium carbonate | C([O-])([O-])=O.[Ba+2]
solvent | trifluoromethane sulfonic acid | 1.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
product | 8-chloro-6,11-dihydro-11-(1- ethoxycarbonyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)OCC)C1 | C22H23ClN2O2
